Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Myalgia
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ with a history of EtOH/HBV/HDV cirrhosis, 
s/p TIPS (___), baseline MELD ___, currently being evaluated 
for liver transplantation as an outpatient who presents to the 
ED with myalgias and found to have hyperkalemia. Patient reports 
muscle pain and cramping of at least ___ years duration. Came to 
ED today due to worsening. Notably, per PCP note from ___, pt 
was involved in a MVA several weeks ago and has had worsened low 
back and shoulder pain with some sciatic symptoms of RLE. He was 
getting ___ as an outpatient.  

Involves bilateral arms and thighs. Endorses bilateral thigh 
weakness but no focal deficits. Some difficulty going up stairs. 
Denies headache, change in vision.  

In the ED his initial vitals were 7 99.4 88 148/83 16 100% RA. 
Patient was given 2L NS. Labs were shown to the K up to 5.7 
which improved with NS. Also creatinine of 1.6 which is slightly 
worse than baseline of 1.3.  
 
On arrival to the floor pt reports his muscle aches are 
improved. 
 
Past Medical History:
1. MELD sodium score of 28 for hepatitis B cirrhosis and delta 
virus hep B cirrhosis.  
2. Hepatocellular carcinoma with previous radiofrequency 
ablation of a 2.7 cm lesion in the liver on ___.  
3. Followup of a lesion that was seen on ___, at 
2.4 cm, increasing to 3 cm on ___, and now scheduled 
for radiofrequency ablation.  
ACHALASIA s/p esophageal dilation ___  
HELICOBACTER PYLORI GASTRITIS treated with omeprazole, Biaxin 
and amoxicillin ___  
- per PCP note, normal colonoscopy in ___  
#HBV/HDV/ETOH Cirrhosis - ___ Class C; Complicated by 
grade 1 esophageal varices and 1.9 cm OPTN5a HCC s/p RFA ___ 
MELD baseline low ___, on entecavir/tenofovir since ___ --> 
monotherapy entecavir since ___ ongoing surveillance of 
segment VIII liver lesion  
 
Social History:
___
Family History:
His father died at age ___ due to GI bleeding. Underlying cause 
of his bleeding is unknown to him. His mother,  ___, has diabetes 
and a brother has CAD. He has three uncles who  had GI cancer; 
two colon cancer and one pancreatic cancer. Also,  one first 
cousin with colon cancer.  

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 98.5 131/72 82 100% on RA 
GEN: resting comfortably in bed, NAD, AAOx3, pleasant, 
conversational  
HEENT: NCAT, MMM, scleral icterus  
NECK: No JVD  
CV: RR, S1+S2, NMRG  
RESP: CTABL, no w/r/r  
ABD: SNTND, normoactive BS  
GU: Deferred  
EXT: WWP, no edema; pain with active movement of lower 
extremities and upper extremities  
NEURO: CN II-XII grossly intact, MAE  
SKIN: jaundiced  

DISCHARGE PHYSICAL EXAM:
VS: 97.8 121/71 68 100% on RA
GEN: resting comfortably in bed, NAD, AAOx3, pleasant, 
conversational  
HEENT: NCAT, MMM, scleral icterus  
NECK: No JVD  
CV: RR, S1+S2, NMRG  
RESP: CTABL, no w/r/r  
ABD: SNTND, normoactive BS  
GU: Deferred  
EXT: WWP, no edema; pain with active movement of lower 
extremities and upper extremities  
NEURO: CN II-XII grossly intact, MAE  
SKIN: jaundiced  
 
Pertinent Results:
ADMISSION LABS:
___ 09:15PM BLOOD WBC-8.9 RBC-3.43* Hgb-11.4* Hct-33.9* 
MCV-99* MCH-33.2* MCHC-33.6 RDW-16.4* RDWSD-58.8* Plt Ct-93*
___ 09:15PM BLOOD Neuts-68.6 ___ Monos-6.8 Eos-2.6 
Baso-0.3 Im ___ AbsNeut-6.13*# AbsLymp-1.88 AbsMono-0.61 
AbsEos-0.23 AbsBaso-0.03
___ 09:15PM BLOOD Glucose-87 UreaN-27* Creat-1.6* Na-134 
K-5.7* Cl-103 HCO3-24 AnGap-13
___ 09:28AM BLOOD Glucose-79 UreaN-29* Creat-1.5* Na-138 
K-4.3 Cl-108 HCO3-22 AnGap-12
___ 09:15PM BLOOD ALT-56* AST-94* CK(CPK)-156 AlkPhos-234* 
TotBili-12.0*
___ 09:15PM BLOOD Albumin-2.9* Calcium-10.2 Phos-3.3 Mg-2.2
___ 02:15PM URINE Color-Yellow Appear-Hazy Sp ___
___ 02:15PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 02:15PM URINE Hours-RANDOM UreaN-465 Creat-53 Na-67 
K-26 Cl-56
___ 01:45AM OTHER BODY FLUID FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE

DISCHARGE LABS:
___ 06:15AM BLOOD WBC-5.4 RBC-2.86* Hgb-9.6* Hct-28.4* 
MCV-99* MCH-33.6* MCHC-33.8 RDW-16.2* RDWSD-58.7* Plt Ct-64*
___ 06:15AM BLOOD ___ PTT-42.8* ___
___ 06:15AM BLOOD Glucose-70 UreaN-27* Creat-1.4* Na-139 
K-5.1 Cl-108 HCO3-24 AnGap-12
___ 06:15AM BLOOD ALT-45* AST-73* AlkPhos-189* TotBili-9.0*
___ 06:15AM BLOOD Albumin-2.2* Calcium-9.4 Phos-3.6 Mg-2.1

MICROBIOLOGY:
**FINAL REPORT ___
   URINE CULTURE (Final ___:    <10,000 organisms/ml.

BLOOD CULTURES ___ PENDING

ECGStudy Date of ___  11:46:52 ___
Clinical indication for EKG: E87.5 - Hyperkalemia
Sinus rhythm. Early R wave progression. Compared to the previous 
tracing
of ___ the heart rate is slower and the repolarization 
changes in the
lateral leads have normalized. Other findings are similar.
 Intervals  Axes
RatePRQRSQTQTc (___)  ___
___

IMAGING:
CXR (AP) ___
FINDINGS: 
Compared with the prior study, lung volumes are lower, causing 
bronchovascular
crowding.  The heart size is exaggerated from the AP projection. 
 No new focal
consolidation, effusion, or pneumothorax.  Incidental note is 
made of
embolization coils and a TIPS stent.
IMPRESSION: 
No focal consolidation concerning for pneumonia.

DUPLEX ULTRASOUND ABD ___
IMPRESSION:
1. Continued patency of the TIPS, with slight interval decrease 
in intra TIPS
velocities.
2. Coarsened nodular liver is consistent with known cirrhosis.
3. 2 cm heterogeneous area in the right lobe of is compatible 
with known RFA
site.
4. A segment VIII lesion identified on prior studies is better 
evaluated on
the recent multi phasic abdominal CT.
5. Cholelithiasis.
 
Brief Hospital Course:
Mr. ___ is a ___ with a history of EtOH/HBV/HDV cirrhosis 
s/p TIPS (___), baseline MELD ___, on transplant list with 
myalgias and found to have hyperkalemia in the setting of 
worsened renal function. He was given fluids and diuretics were 
held with improvement.

# Hyperkalemia - K of 5.4 at admission. Normalized after 2L NS 
in the ED and holding diuretics. Likely due to pre-renal 
azotemia. He perhaps has decreasing diuretic need following his 
TIPS. 

# Acute on Chronic Renal Failure - Likely pre-renal due to 
overdiuresis given resolved with 2L NS. He does not have other 
signs of decompensated cirrhosis, so hepatorenal syndrome is 
less likely. His Cr remained stable at 1.4 at discharge.

# Myalgias and cramps - Appears chronic. Improved without 
intervention. Flu swab was negative. EKG was nonischemic.  He 
was started on magnesium oxide supplementation at discharge.

# HBV/EtOH Cirrhosis: Appeared to be compensated. His MELD was 
stable at 28. He was continued on home regimen except for 
diuretics.

TRANSITIONAL ISSUES:
- Will need labs drawn on ___: CBC, CHEM10, LFTs, ___. 
Fax to ___ or call ___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lactulose 30 mL PO TID 
2. Ursodiol 300 mg PO TID 
3. Furosemide 20 mg PO DAILY 
4. Spironolactone 25 mg PO DAILY 
5. Entecavir 1 mg PO DAILY 
6. Calcium Carbonate 500 mg PO BID 
7. Vitamin D 400 UNIT PO BID 
8. Rifaximin 550 mg PO BID 

 
Discharge Medications:
1. Calcium Carbonate 500 mg PO BID 
2. Entecavir 1 mg PO DAILY 
3. Lactulose 30 mL PO TID 
4. Rifaximin 550 mg PO BID 
5. Ursodiol 300 mg PO TID 
6. Vitamin D 400 UNIT PO BID 
7. Magnesium Oxide 400 mg PO BID 
RX *magnesium oxide 400 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0
8. Outpatient Lab Work
Please draw CBC, CHEM10, LFTs, ___ on ___. Results should 
be faxed to the ___ at ___, (tel: 
___. ICD-10 code: ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses:
Acute kidney injury
Hyperkalemia

Secondary Diagnoses:
ETOH/HBV cirrhosis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for muscle pain.  
Your potassium was high.  We stopped two of your medications and 
this improved.  We also started magnesium to help your muscle 
cramps.  

It is very important to come to ___ on ___ to have 
blood tests done, then follow up with your liver doctor on 
___.  

Please call your doctor or come to the ED if you have any more 
pain or other concerns.
 
Followup Instructions:
___